US04009181
A mixture of 1.3 g. of 55 percent sodium hydride in mineral oil, 8 g. of 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester and 50 ml. of dimethylformamide was stirred at room temperature. After 1.5 hours all the sodium hydride had reacted and a solution of 4.5 g. of methyl iodide in 15 ml. of dimethylformamide was added. The mixture was stirred for 6 hours between 60°-65° C. Upon cooling to room temperature, the reaction mixture was concentrated to dryness under reduced pressure and the residue was partitioned between ether (200 ml.) and water (200 ml.). The ether phase was separated and washed by extraction with water (2 × 100 ml.). After the ether solution had dried over sodium sulfate, the desiccant was removed by filtration and the ether evaporated, yielding 7.2 g. of product. Following crystallization from methanol, 4.6 g. of 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester was obtained, m.p. 126°-127°.

reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C15H16ClNO2
reactant | methyl iodide | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)C | C16H18ClNO2
